US04547501
2,3-Dichloroquinoxaline (33.5 g., 0.168 mole) was stirred with hydrazine hydrate (18.5 g., 0.369 mole) in 500 ml. of ethanol at room temperature overnight (i.e.. at ca. 20° C. for approximately 16 hours). The thick, yellow slurry was filtered and the precipitate was washed with ethanol. The precipitated material was recrystallized from hot methanol to give 13.5 g. (41% yield) of 2-chloro-3-hydrazinoquinoxaline, m.p. 181° C. (decomp.). Mass spectrum: m/e, 194 (P).

reactant | 2,3-Dichloroquinoxaline | 0.168 mole, 33.5 g | ClC1=NC2=CC=CC=C2N=C1Cl | C8H4Cl2N2
reactant | hydrazine hydrate | 0.369 mole, 18.5 g | O.NN
solvent | ethanol | C(C)O | C2H6O
product | 2-chloro-3-hydrazinoquinoxaline | 41% yield | ClC1=NC2=CC=CC=C2N=C1NN | C8H7ClN4
